US06740766B2
As in Example 1, 1,3-cyclohexadiene (0.98 g, 12.23 mmol), trichlorosilane (6.63 g, 48.95 mmol) and tetrabutylphosphonium chloride (0.35 g, 1.19 mmol) were added in a 25 mL stainless steel tube under nitrogen atmosphere. After sealing the cylinder with a cap, the reactor was maintained at 180° C. for 12 hours. The resulting mixture was distilled to yield 1.92 g (yield: 45%) of 2,6-bis(trichlorosilyl)-1-hexene.

reactant | 1,3-cyclohexadiene | 12.23 mmol, 0.98 g | C1=CC=CCC1 | C6H8
reactant | trichlorosilane | 48.95 mmol, 6.63 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | tetrabutylphosphonium chloride | 1.19 mmol, 0.35 g | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | 2,6-bis(trichlorosilyl)-1-hexene | 1.92 g, yield: 45% | Cl[Si](C(=C)CCCC[Si](Cl)(Cl)Cl)(Cl)Cl | C6H10Cl6Si2
